US03993643
1-(3-Methoxybenzyl)-2-[2-(5-nitro-2-furyl)vinyl]imidazole
Using the same general procedure of Example 1, the captioned compound was prepared using 3-methoxybenzyl chloride and 2-[2-(5-nitro-2-furyl)vinyl]imidazole. After recrystallization from ethanol water the product melted at 143°-145°.

reactant | 3-methoxybenzyl chloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | 2-[2-(5-nitro-2-furyl)vinyl]imidazole | [N+](=O)([O-])C1=CC=C(O1)C=CC=1NC=CN1 | C9H7N3O3
product | 1-(3-Methoxybenzyl)-2-[2-(5-nitro-2-furyl)vinyl]imidazole | COC=1C=C(CN2C(=NC=C2)C=CC=2OC(=CC2)[N+](=O)[O-])C=CC1 | C17H15N3O4
